US06777559B2
A solution of 0.96 g of acetic acid 9-benzenesulfonyl-9H-carbazol-4-yl ester (2.62 mmol) in 15 ml of methanol was treated with 3.5 ml of 4 M sodium hydroxide (14 mmol) and stirred at 50° C. for 1.5 h. After cooling to room temperature, methanol was removed from the reaction mixture by rotary evaporation and the residue was partitioned between t-butyl methyl ether and 2N aq. HCl. After drying (Na2SO4) the organic phase was evaporated to dryness to afford 0.84 g (99%) of 9-benzenesulfonyl-9H-carbazol-4-ol as an orange brown oil.

reactant | acetic acid 9-benzenesulfonyl-9H-carbazol-4-yl ester | 2.62 mmol, 0.96 g | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)OC(C)=O | C20H15NO4S
reactant | sodium hydroxide | 14 mmol, 4 M, 3.5 ml | [OH-].[Na+]
solvent | methanol | 15 ml | CO | CH4O
product | 9-benzenesulfonyl-9H-carbazol-4-ol | 0.84 g, 99% | C1(=CC=CC=C1)S(=O)(=O)N1C2=CC=CC=C2C=2C(=CC=CC12)O | C18H13NO3S
